US08236826B2
To a solution of t-butyl 2-((3-cyano-4-(5-nitropyridin-2-yloxy)phenyl)(methyl)amino)acetate (1.2 g, 3.1 mmol) in dichloromethane (12 mL) was added trifluoroacetic acid (12 mL), and the resulting reaction solution was stirred at room temperature for 5 hours. The solvent was evaporated, and water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated, to thereby yield crude 2-((3-cyano-4-(5-nitropyridin-2-yloxy)phenyl)(methyl)amino)-acetic acid. To a solution of this compound in DMF (24 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (659 mg, 3.4 mmol), 1-hydroxybenzotriazole monohydrate (526 mg, 3.4 mmol) and 1-piperonylpiperazine (757 mg, 3.4 mmol), and the resulting reaction solution was stirred for 8 hours at room temperature. Water was added to the reaction solution and extracted with ethyl acetate. The ethyl acetate layer was then washed with, in order, saturated aqueous sodium bicarbonate solution, water and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel chromatography (ethyl acetate), to thereby yield 412 g of the title compound.

reactant | t-butyl 2-((3-cyano-4-(5-nitropyridin-2-yloxy)phenyl)(methyl)amino)acetate | 3.1 mmol, 1.2 g | C(#N)C=1C=C(C=CC1OC1=NC=C(C=C1)[N+](=O)[O-])N(CC(=O)OC(C)(C)C)C | C19H20N4O5
reactant | trifluoroacetic acid | 12 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 2-((3-cyano-4-(5-nitropyridin-2-yloxy)phenyl)(methyl)amino)-acetic acid | C(#N)C=1C=C(C=CC1OC1=NC=C(C=C1)[N+](=O)[O-])N(CC(=O)O)C | C15H12N4O5
